US07521579B2
To 2-methoxy-4-(2-nitro-ethyl)-phenol (2.0 g) and Raney-nickel (3.7 g) in ethanol (30 ml) is added hydrazine hydrate (3.8 g) during 30 minutes. The reaction mixture is stirred for 1 hour at room temperature. After filtration the reaction mixture is poured into water (350 ml). It is extracted with ethyl acetate (2×400 ml) washed with brine (2×50 ml) dried (Na2SO4) and evaporated. 4-(2-amino-ethyl)-2-methoxy-phenol is obtained as colorless crystals.

reactant | 2-methoxy-4-(2-nitro-ethyl)-phenol | 2.0 g | COC1=C(C=CC(=C1)CC[N+](=O)[O-])O | C9H11NO4
reactant | hydrazine hydrate | 3.8 g | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 3.7 g | [Ni] | Ni
product | 4-(2-amino-ethyl)-2-methoxy-phenol | NCCC1=CC(=C(C=C1)O)OC | C9H13NO2
